US05856573
A mixed solution of 1-bromo-2-(1-ethoxyethyl)oxymethylbenzene (3.11 g, 0.012 mol) and dry THF (10 ml) was added dropwise at 50° to 60° C. over 25 minutes to a solution prepared by adding dry THF (2 ml) and ethyl bromide (0.2 ml) to magnesium (0.44 g, 0.018 mol) in a stream of nitrogen. After completion of the addition, the mixture was stirred at 50° to 60° C. for 1 hour and cooled to room temperature. After cooling, the mixture was added dropwise to a mixed solution of ethyl oxalate (2.63 g, 0.018 mol) and dry THF (30 ml) at below -50° C. over 15 minutes. Then, the mixture was stirred at -50° to -60° C. for 1 hour. After completion of the reaction, water (200 ml) was added, and the mixture was extracted with ether (200 ml). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain ethyl 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-oxoacetate (2.30 g, Yield: 68.4%) as a colorless oil.

reactant | 1-bromo-2-(1-ethoxyethyl)oxymethylbenzene | 0.012 mol, 3.11 g | BrC1=C(C=CC=C1)COC(C)OCC | C11H15BrO2
reactant | ethyl bromide | 0.2 ml | C(C)Br | C2H5Br
reactant | magnesium | 0.018 mol, 0.44 g | [Mg] | Mg
reactant | ethyl oxalate | 0.018 mol, 2.63 g | C(C(=O)[O-])(=O)OCC
solvent | water | 200 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-oxoacetate | 2.30 g, Yield: 68.4% | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)OCC)=O | C15H20O5
